US07524965B2
To a 50 mL round-bottom flask was added biphenyl-2-ylcarbamic acid piperidin-4-yl ester (1.2 g, 4.04 mmol) and N-(4-[1,3]dioxolan-2-yl-2,5-dimethylphenyl)acrylamide (1.0 g, 4.04 mmol). Ethanol (10 mL) and dichloromethane (10 mL) were added to form a slurry. The reaction mixture was heated at 45° C. to 50° C. for about 18 hours and then cooled to room temperature. Aqueous 1M hydrochloric acid (10 mL) was added and the resulting mixture was stirred vigorously for about 3 hours. Dichloromethane (10 mL) was added and the resulting mixture was stirred for about 5 minutes. The layers were then separated and the organic layer was dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to provide crude biphenyl-2-ylcarbamic acid 1-[2-(4-formyl-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester hydrochloride (1.9 g). 1H NMR (300 MHz, DMSO-d6) δ 1.2-1.4 (m, 2H), 1.58-1.75 (m, 2H), 2.0-2.17 (m, 2H), 2.19 (s, 3H), 2.38 (s, 3H), 2.41-2.50 (m, 4H), 2.5-2.75 (m, 2H), 4.31-4.42 (m, 1H), 7.10-7.35 (m, 9H), 7.55 (s, 1H), 7.75 (s, 1H), 8.59 (s, 1H), 9.82 (s, 1H), 9.98 (s, 1H); MS [M+H+] found 500.2.

reactant | biphenyl-2-ylcarbamic acid piperidin-4-yl ester | 4.04 mmol, 1.2 g | N1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C18H20N2O2
reactant | N-(4-[1,3]dioxolan-2-yl-2,5-dimethylphenyl)acrylamide | 4.04 mmol, 1.0 g | O1C(OCC1)C1=CC(=C(C=C1C)NC(C=C)=O)C | C14H17NO3
reactant | Ethanol | 10 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1M, 10 mL | Cl | ClH
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | biphenyl-2-ylcarbamic acid 1-[2-(4-formyl-2,5-dimethylphenylcarbamoyl)ethyl]piperidin-4-yl ester hydrochloride | 1.9 g | Cl.C(=O)C1=CC(=C(C=C1C)NC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | InChI=1S/C30H33N3O4.ClH/c1-21-19-28(22(2)18-24(21)20-34)31-29(35)14-17-33-15-12-25(13-16-33)37-30(36)32-27-11-7-6-10-26(27)23-8-4-3-5-9-23;/h3-11,18-20,25H,12-17H2,1-2H3,(H,31,35)(H,32,36);1H
